US08426420B2
4-[(S)-4-Carboxy-2-({5-[2-((S)-2-carboxy-4,4-difluoro-pyrrolidin-1-yl)-2-oxo-ethoxy]-1-phenyl-1H-pyrazole-3-carbonyl}-amino)-butyryl]-piperazine-1-carboxylic acid ethyl ester
To a solution of 100 mg 4-[(S)-4-tert-Butoxycarbonyl-2-({5-[2-((S)-2-carboxy-4,4-difluoro-pyrrolidin-1-yl)-2-oxo-ethoxy]-1-phenyl-1H-pyrazole-3-carbonyl}-amino)-butyryl]-piperazine-1-carboxylic acid ethyl ester in 2 ml dichloromethane were added 300 μl TFA. After stirring for 12 h the solvents were removed under reduced pressure and the residue purified by preparative HPLC (C18 reverse phase column, elution with a water/MeCN gradient with 0.1% TFA). The fractions containing the product were lyophilized to yield the pure product. Yield: 63 mg MS (ES+): m/e=665.

reactant | 4-[(S)-4-tert-Butoxycarbonyl-2-({5-[2-((S)-2-carboxy-4,4-difluoro-pyrrolidin-1-yl)-2-oxo-ethoxy]-1-phenyl-1H-pyrazole-3-carbonyl}-amino)-butyryl]-piperazine-1-carboxylic acid ethyl ester | 100 mg | C(C)OC(=O)N1CCN(CC1)C([C@H](CCC(=O)OC(C)(C)C)NC(=O)C1=NN(C(=C1)OCC(=O)N1[C@@H](CC(C1)(F)F)C(=O)O)C1=CC=CC=C1)=O | C33H42F2N6O10
reactant | TFA | 300 μl | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | dichloromethane | 2 ml | ClCCl | CH2Cl2
product | 4-[(S)-4-Carboxy-2-({5-[2-((S)-2-carboxy-4,4-difluoro-pyrrolidin-1-yl)-2-oxo-ethoxy]-1-phenyl-1H-pyrazole-3-carbonyl}-amino)-butyryl]-piperazine-1-carboxylic acid ethyl ester | C(C)OC(=O)N1CCN(CC1)C([C@H](CCC(=O)O)NC(=O)C1=NN(C(=C1)OCC(=O)N1[C@@H](CC(C1)(F)F)C(=O)O)C1=CC=CC=C1)=O | C29H34F2N6O10
